US06936602B1
1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylic acid (320 mg) was dissolved in tetrahydrofuran (15 ml), and DMF (0.3 ml) was added to the solution. Then, thionyl chloride (0.23 ml) was added thereto at 0° C., and the mixture was stirred under nitrogen atmosphere at room temperature for 2 hours. The solvent and excess thionyl chloride were evaporated under reduced pressure, and the resulting residue was suspended in tetrahydrofuran (25 ml), and the suspension was added to a solution of 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]aniline (275 mg) and triethylamine (1.27 g) in tetrahydrofuran (10 ml) at 0° C. The temperature was returned to room temperature, and the mixture was stirred overnight. To the mixture was added water, and the mixture was extracted with ethyl acetate twice. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was separated and purified with silica gel column chromatography (methanol:ethyl acetate=1:8) to give 1-allyl-7-bromo-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1-benzazepine-4-carboxamide (266 mg) as yellow oil.

reactant | 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylic acid | 320 mg | C(C=C)N1CCC(=CC2=C1C=CC(=C2)Br)C(=O)O | C14H14BrNO2
reactant | DMF | 0.3 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 0.23 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-allyl-7-bromo-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1-benzazepine-4-carboxamide | 266 mg | C(C=C)N1CCC(=CC2=C1C=CC(=C2)Br)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C | C27H32BrN3O2
